US08283354B2
To a solution of 2-(4-chloro-7-methylquinazolin-2-yl)phenol (0.449 mg, 1.66 mmol) in CH2Cl2 was added 5 equivalents of triethylamine followed by the addition of piperidine-3-carboxylic acid as a TFA salt. The reaction was stirred for 2 hours and quenched with water. The layers were separated, and the organic extracts were dried over MgSO4, filtered, and concentrated to give 1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperidine-3-carboxylic acid which was used without further purification. LC/MS: m/z 364.3 (M+H)+ at 2.22 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | 2-(4-chloro-7-methylquinazolin-2-yl)phenol | 1.66 mmol, 0.449 mg | ClC1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O | C15H11ClN2O
reactant | triethylamine | 5 equivalents | C(C)N(CC)CC | C6H15N
reactant | piperidine-3-carboxylic acid | N1CC(CCC1)C(=O)O | C6H11NO2
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperidine-3-carboxylic acid | OC1=C(C=CC=C1)C1=NC2=CC(=CC=C2C(=N1)N1CC(CCC1)C(=O)O)C | C21H21N3O3
